2203-06-11 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EGD showed angioectasia in fundus that was clipped
   - Repeat hct 16 after 2 units PRBC. Transfused additional 2 units
   PRBCs. INR 1.6, given additional 1 unit FFP. GI aware.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-6-11**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 88 (67 - 88) bpm
   BP: 123/50(68) {98/33(38) - 125/71(77)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,850 mL
                                                                  1,070 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                  1,350 mL
                                                                  1,070 mL
   Total out:
                                                                    885 mL
                                                                    580 mL
   Urine:
                                                                    885 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    965 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Rales bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   161 K/uL
   5.2 g/dL
   16.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2203-6-10**]  10:41 PM
   WBC
   6.7
   Hct
   16.0
   Plt
   161
   TropT
   0.14
   Other labs: PT / PTT / INR:17.4/30.7/1.6, CK / CKMB /
   Troponin-T:127/4/0.14
   Assessment and Plan
   Mr. [**Known lastname 274**] is a 86 year old male with history of GIBs, colon CA s/p
   colectomy, atrial fibrillation on coumadin and DM who presents with Hct
   of 15, hematemesis and melena in the setting of a supratherapeutic INR
   found to have AVM s/p clipping.
   .
   # GIB: Patient s/p EGD with clipped angioectasia. Hct overnight without
   appropriate bump after 2 units PRBC. Received additional 2 units PRBC
   still with inappropriate increase. Patient remains hemodynamically
   stable without tachycardia or hypotension.
   - Transfuse additional 2 units PRBC. Recheck post-transfusion hct and
   coags. Goal hct>25 and INR<1.5
   - IV PPI [**Hospital1 **]
   - Follow-up with GI recs if any.
   - Hold off on diuresis as long as respiratory status stable given
   rapidly changing renal function.
   .
   # Acute Renal Failure: Creatinine elevated from baseline of 1.5 - 2.0.
   FeNa 1. ARF likely secondary to inadequate renal perfusion secondary to
   blood loss.
   - Trend creatinine.
   - Avoid nephrotoxic agents, renally dose meds.
   # dCHF: Patient with rales on exam today with O2 requirement.
   Respiratory status otherwise stable. As above, given rapidly changing
   renal function will hold off on diuresis.  Patient currently with
   UOP>60 cc/hr, likely auto-diuresing.
   - If O2 requirement worsens, give lasix IV 10 mg x1.
   - Monitor UOP. Goal >30 cchr
   # Atrial Fibrillation/Supratherapeutic INR: Patient reports taking his
   medications as directed.  Supratherapeutic INR while on amox/clav for
   foot infection.  Patient is CHADS score 3, so would benefit from
   anticoagulation although history of GIB could be prohibitive.
   - Hold coumadin, coag goal as above.
   - Continue to monitor on telemetry
   .
   # Troponin Leak: Likely from ischemic insult in the setting of severe
   anemia, worsened by decreased clearance from acute on chronic renal
   failure. No documented CAD, though patient with DM at this age, likely
   has CAD. Currently without chest pain, SOB and EKG without ischemic
   changes.
   - Cycle enzymes
   - EKG in AM
   - Hold off on restarting ASA, BB in the setting of GIB
   .
   # COPD: Normal bicarbonate values in OMR, arguing against being a
   chronic retainer. No active issues.
   - Continue outpatient inhalers
   .
   # Colon CA: Patient was due for surveillance colonoscopy as his last
   was in [**2198**], but he has yet to follow-up.
   - Defer colonoscopy to outpatient setting
   .
   # Iron Deficiency Anemia: Acutely worsened given GI bleeding as above.
   - Continue transfusions as above
   - Follow-up with colonoscopy as outpatient as above
   .
   # Gout
   - Continue Allopurinol, renally dosed
   FEN: Clears. Replete as necessary
   PPx: SCDs, PPI
   Access: PIV x2
   Code: Full
   Dispo: Call out.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-6-10**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2203-06-11 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - LP unsuccessful
   - MRI/MRA brain done with read pending
   - Surgery eval for SBO, NGT placed, rec NPO and serial abdominal
   exams.  Patient d/c'd NGT overnight.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-6-11**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 88 (67 - 88) bpm
   BP: 123/50(68) {98/33(38) - 125/71(77)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,850 mL
                                                                  1,070 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                  1,350 mL
                                                                  1,070 mL
   Total out:
                                                                    885 mL
                                                                    580 mL
   Urine:
                                                                    885 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    965 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   161 K/uL
   5.2 g/dL
   16.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2203-6-10**]  10:41 PM
   WBC
   6.7
   Hct
   16.0
   Plt
   161
   TropT
   0.14
   Other labs: PT / PTT / INR:17.4/30.7/1.6, CK / CKMB /
   Troponin-T:127/4/0.14
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-6-10**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2203-06-11 10:41:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - 4u pRBC since yest, 5 FFP
   - EGD - AVM fundus clipped
   - hct 15->20 after 4units
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2203-6-11**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 91 (67 - 91) bpm
   BP: 128/54(70) {98/33(38) - 128/71(77)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,850 mL
                                                                  1,070 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                  1,350 mL
                                                                  1,070 mL
   Total out:
                                                                    885 mL
                                                                    990 mL
   Urine:
                                                                    885 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    965 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   5.2 g/dL
   161 K/uL
   124 mg/dL
   3.0 mg/dL
   28 mEq/L
   4.4 mEq/L
   111 mg/dL
   111 mEq/L
   148 mEq/L
   16.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2203-6-10**]  10:41 PM
                             [**2203-6-11**]  07:15 AM
   WBC
   6.7
   Hct
   16.0
   20
   Plt
   161
   Cr
   3.0
   TropT
   0.14
   0.17
   Glucose
   124
   Other labs: PT / PTT / INR:17.4/30.7/1.6, CK / CKMB /
   Troponin-T:105/4/0.17, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -improving w/ volume
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   - AVM found, clipped
   - not bumping appropriately
   - cont serial hct
   - GI following
   - large bore iv access x 2
   - hold anticoag
   -advance to clear
   -rales on exam, req O2 via NC
   -diurese
Anemia secondary to blood loss
Troponin leak
   -CK/MB negative
Colon cancer
   -did not follow-up on colonoscopy, address w/ pt
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-6-10**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2203-06-12 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 274**] is a 86 year old male with history of GIBs,
   colon CA s/p colectomy, atrial fibrillation on coumadin and DM who
   presents with Hct of 15, hematemesis and melena in the setting of a
   supratherapeutic INR found to have AVM s/p clipping.
   24 Hour Events:
   - got two units prbc, lasix 10 iv x 1 between units for crackles
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2203-6-12**] 12:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-6-12**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 80 (76 - 95) bpm
   BP: 126/50(68) {106/37(53) - 143/82(84)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  4,286 mL
                                                                    120 mL
   PO:
                                                                  2,560 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
                                                                  1,726 mL
   Total out:
                                                                  2,990 mL
                                                                    940 mL
   Urine:
                                                                  2,990 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,296 mL
                                                                   -820 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   165 K/uL
   8.4 g/dL
   128 mg/dL
   2.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   75 mg/dL
   108 mEq/L
   145 mEq/L
   25.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2203-6-10**]  10:41 PM
                             [**2203-6-11**]  07:15 AM
                             [**2203-6-11**]  04:22 PM
                             [**2203-6-11**]  11:43 PM
                             [**2203-6-12**]  05:40 AM
   WBC
   6.7
   7.2
   7.8
   Hct
   16.0
   20.0
   22.0
   23.6
   25.0
   Plt
   161
   170
   165
   Cr
   3.0
   2.0
   TropT
   0.14
   0.17
   Glucose
   124
   128
   Other labs: PT / PTT / INR:14.2/26.3/1.2, CK / CKMB /
   Troponin-T:105/4/0.17, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 274**] is a 86 year old male with history of GIBs, colon CA s/p
   colectomy, atrial fibrillation on coumadin and DM who presents with Hct
   of 15, hematemesis and melena in the setting of a supratherapeutic INR
   found to have AVM s/p clipping.
   # GIB: Patient s/p EGD with clipped angioectasia. Hct overnight without
   appropriate bump after 2 units PRBC. Received additional 2 units PRBC
   still with inappropriate increase. Patient remains hemodynamically
   stable without tachycardia or hypotension.
   - Transfuse additional 2 units PRBC. Recheck post-transfusion hct and
   coags. Goal hct>25 and INR<1.5
   - IV PPI [**Hospital1 **]
   - Follow-up with GI recs if any.
   - Hold off on diuresis as long as respiratory status stable given
   rapidly changing renal function.
   # Acute Renal Failure: Creatinine elevated from baseline of 1.5 - 2.0.
   FeNa 1. ARF likely secondary to inadequate renal perfusion secondary to
   blood loss.
   - Trend creatinine.
   - Avoid nephrotoxic agents, renally dose meds.
   # dCHF: Patient with rales on exam today with O2 requirement.
   Respiratory status otherwise stable. As above, given rapidly changing
   renal function will hold off on diuresis.  Patient currently with
   UOP>60 cc/hr, likely auto-diuresing.
   - If O2 requirement worsens, give lasix IV 10 mg x1.
   - Monitor UOP. Goal >30 cchr
   # Atrial Fibrillation/Supratherapeutic INR: Patient reports taking his
   medications as directed.  Supratherapeutic INR while on amox/clav for
   foot infection.  Patient is CHADS score 3, so would benefit from
   anticoagulation although history of GIB could be prohibitive.
   - Hold coumadin, coag goal as above.
   - Continue to monitor on telemetry
   # Troponin Leak: Likely from ischemic insult in the setting of severe
   anemia, worsened by decreased clearance from acute on chronic renal
   failure. No documented CAD, though patient with DM at this age, likely
   has CAD. Currently without chest pain, SOB and EKG without ischemic
   changes.
   - Cycle enzymes
   - EKG in AM
   - Hold off on restarting ASA, BB in the setting of GIB
   # COPD: Normal bicarbonate values in OMR, arguing against being a
   chronic retainer. No active issues.
   - Continue outpatient inhalers
   # Colon CA: Patient was due for surveillance colonoscopy as his last
   was in [**2198**], but he has yet to follow-up.
   - Defer colonoscopy to outpatient setting
   # Iron Deficiency Anemia: Acutely worsened given GI bleeding as above.
   - Continue transfusions as above
   - Follow-up with colonoscopy as outpatient as above
   # Gout
   - Continue Allopurinol, renally dosed
   FEN: Clears. Replete as necessary
   PPx: SCDs, PPI
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-6-10**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2203-06-12 08:59:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -2units pRBC
   -10mg lasix between units
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   itch;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2203-6-12**] 12:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-6-12**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 77 (76 - 95) bpm
   BP: 126/54(72) {106/37(53) - 143/82(84)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  4,286 mL
                                                                    120 mL
   PO:
                                                                  2,560 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
                                                                  1,726 mL
   Total out:
                                                                  2,990 mL
                                                                  1,200 mL
   Urine:
                                                                  2,990 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,296 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   165 K/uL
   128 mg/dL
   2.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   75 mg/dL
   108 mEq/L
   145 mEq/L
   25.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2203-6-10**]  10:41 PM
                             [**2203-6-11**]  07:15 AM
                             [**2203-6-11**]  04:22 PM
                             [**2203-6-11**]  11:43 PM
                             [**2203-6-12**]  05:40 AM
   WBC
   6.7
   7.2
   7.8
   Hct
   16.0
   20.0
   22.0
   23.6
   25.0
   Plt
   161
   170
   165
   Cr
   3.0
   2.0
   TropT
   0.14
   0.17
   Glucose
   124
   128
   Other labs: PT / PTT / INR:14.2/26.3/1.2, CK / CKMB /
   Troponin-T:105/4/0.17, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -improving w/ volume
   -creat cont to fall
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   - AVM found, clipped
   - hct improving w/ transfusion though bump on the low side for units
   transfused
   - cont serial hct
   - GI following
   -95% on RA
   -cont keep even to negative
Anemia secondary to blood loss
Afib
   -? of ongoing anticoag given GIB
   -Dr. [**Last Name (STitle) **] notified pt admitted/in house
Troponin leak
   -CK/MB negative
Colon cancer
   -did not follow-up on colonoscopy, pt reminded
   -PCP involved with pt - saw pt yesterday
Podiatry contsult eval Rt toe
Pt is okay for transfer to floor
   Remainder of plan as outlined in resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-6-10**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: